US08633212B2
To 6-bromo-1-indanone (25 g, 0.12 mol) in dioxane (150 mL) was added Triton B (2.48 mL, 6.3 mmol) and hydroquinone (5 mg, 0.05 mmol). After stirring the mixture for 10 min at 50° C. methylacrylate (21.5 mL, 0.24 mol) in 50 mL dioxane was added. The mixture was stirred for 4 h at 50° C. and 14 h at RT. Then 2 mL methylacrylate was added and the reaction was stirred for 1 h at 50° C. The reaction mixture was poured onto water, extracted with EA and the solvents were evaporated. The residue was purified by MPLC (340 g silicagel, gradient: CH/EA 100:0 to 50:50) to give 3-[6-Bromo-2-(2-methoxycarbonyl-ethyl)-1-oxo-indan-2-yl]-propionic acid methyl ester (38 g, 84%).

reactant | 6-bromo-1-indanone | 0.12 mol, 25 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | methylacrylate | 0.24 mol, 21.5 mL | COC(C=C)=O | C4H6O2
reactant | methylacrylate | 2 mL | COC(C=C)=O | C4H6O2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | hydroquinone | 0.05 mmol, 5 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 3-[6-Bromo-2-(2-methoxycarbonyl-ethyl)-1-oxo-indan-2-yl]-propionic acid methyl ester | 38 g, 84% | COC(CCC1(C(C2=CC(=CC=C2C1)Br)=O)CCC(=O)OC)=O | C17H19BrO5
